US04265901
2-hydroxy-2-(pentafluoroethyl)-4-nitro-6-(trifluoromethyl)benzimidazoline, ammonium salt
2-methoxy-2,6-bis(trifluoromethyl)-4-nitrobenzimidazoline, sodium salt

reactant | 2-methoxy-2,6-bis(trifluoromethyl)-4-nitrobenzimidazoline | COC1(NC2=C(N1)C=C(C=C2[N+](=O)[O-])C(F)(F)F)C(F)(F)F | C10H7F6N3O3
reactant | sodium | [Na] | Na
product | 2-hydroxy-2-(pentafluoroethyl)-4-nitro-6-(trifluoromethyl)benzimidazoline, ammonium salt | [NH4+].OC1(NC2=C(N1)C=C(C=C2[N+](=O)[O-])C(F)(F)F)C(C(F)(F)F)(F)F | InChI=1S/C10H5F8N3O3.H3N/c11-7(12,13)3-1-4-6(5(2-3)21(23)24)20-10(22,19-4)8(14,15)9(16,17)18;/h1-2,19-20,22H;1H3/p+1
